US06100257
Then, 16.5 g of 4-chloro-2-fluorobenzylalcohol was dissolved in 150 ml of tetrahydrofuran and 1 ml of pyridine, to which 10 ml of thionyl chloride was added dropwise at 5° C., and the mixture was stirred for 2.5/6 hours. After cormpletion of the reaction, the reaction mixture was concentrated, and the precipitated crystals were collected by filtration. The filtrate was subjected to silica gel column chromatography, which afforded 18.5 g of 4-chloro-2-fluorobenzyl chloride.

reactant | 4-chloro-2-fluorobenzylalcohol | 16.5 g | ClC1=CC(=C(CO)C=C1)F | C7H6ClFO
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 4-chloro-2-fluorobenzyl chloride | 18.5 g | ClC1=CC(=C(CCl)C=C1)F | C7H5Cl2F
